US07820680B2
Step 7: (7R,9aS)-4-hydroxy-2-isopropyl-7-phenyl-8,9,9a,10-tetrahydro-7H-pyrrolo[1′,2′:4,5]pyrazino[1,2-c]pyrimidine-1,3,5(2H)-trione
To a solution of racemic (6R,8aS)-N-isopropyl-4-oxo-6-phenylhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxamide (0.187 g, 0.620 mmol) in DMF (3 mL) at 0° C. was added a 1M solution of lithium bis(trimethylsilyl)amide in THF (1.49 mL, 1.49 mmol), followed by diethyl oxalate (0.101 mL, 0.745 mmol). The mixture was stirred for 18 h, allowing the cooling bath to warm to ambient temperature. The resultant mixture was then treated with additional lithium bis(trimethylsilyl)amide in THF (1.49 mL, 1.49 mmol) and stirred at room temperature for 6 h. The product mixture was concentrated under vacuum and the residue was partitioned between aqueous HCl and ethyl acetate. The organic extract was concentrated under vacuum. The residue was subjected to HPLC purification on C18 stationary phase eluted with water/acetonitrile/TFA mobile phase to give the title compound as a solid. HPLC RT=3.19 min, 95% at 215 nm (Method A); ES MS (M+H)=356.2; 1H NMR (400 MHz, DMSO-d6) δ 7.32-7.24 (m, 2H) 7.22-7.16 (m, 3H) 5.12-5.02 (m, 2H) 4.80-4.74 (d, 1H) 3.84-3.74 (m, 1H) 2.38-2.28 (m, 1H) 2.06-1.98 (m, 1H) 1.74-1.66 (m, 1H) 1.42-1.34 (dd, 6H) 1.34-1.26 (m, 1H).

reactant | racemic (6R,8aS)-N-isopropyl-4-oxo-6-phenylhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxamide | 0.620 mmol, 0.187 g | C(C)(C)NC(=O)N1CC2N(C(C1)=O)C(CC2)C2=CC=CC=C2 | C17H23N3O2
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 1.49 mmol, 1.49 mL | C1CCOC1 | C4H8O
reactant | diethyl oxalate | 0.745 mmol, 0.101 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | THF | 1.49 mmol, 1.49 mL | C1CCOC1 | C4H8O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (7R,9aS)-4-hydroxy-2-isopropyl-7-phenyl-8,9,9a,10-tetrahydro-7H-pyrrolo[1′,2′:4,5]pyrazino[1,2-c]pyrimidine-1,3,5(2H)-trione | OC1=C2N(C(N(C1=O)C(C)C)=O)C[C@H]1N(C2=O)[C@H](CC1)C1=CC=CC=C1 | C19H21N3O4
